US08198271B2
N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-[3-(3,4-difluoro phenyl)-1-[3-(morpholin-4-yl)propyl]ureidomethyl]pyridine-2-carboxylic acid amide (Reference Compound No. 6-1)
3,4-Difluorophenyl isocyanate (15 μL, 0.13 mmol) was added to a solution of N-(4-t-butoxycarbonylaminothiophen-3-yl)-5-[3-(morpholin-4-yl)propylaminomethyl]pyridine-2-carboxylic acid amide (Reference Compound No. 5-12, 43 mg, 0.091 mmol) in dichloromethane (2.0 mL), and then the reaction mixture was stirred at room temperature for 1.5 hours. The reaction solution was purified by silica gel column chromatography (chloroform-methanol) to give 53 mg of the title reference compound as a colorless solid. (Yield 92%)

reactant | 3,4-Difluorophenyl isocyanate | 0.13 mmol, 15 μL | FC=1C=C(C=CC1F)N=C=O | C7H3F2NO
reactant | N-(4-t-butoxycarbonylaminothiophen-3-yl)-5-[3-(morpholin-4-yl)propylaminomethyl]pyridine-2-carboxylic acid amide | 0.091 mmol, 43 mg | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)CNCCCN1CCOCC1 | C23H33N5O4S
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | N-(4-t-Butoxycarbonylaminothiophen-3-yl)-5-[3-(3,4-difluoro phenyl)-1-[3-(morpholin-4-yl)propyl]ureidomethyl]pyridine-2-carboxylic acid amide | Yield 92% | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)CN(C(=O)NC1=CC(=C(C=C1)F)F)CCCN1CCOCC1 | C30H36F2N6O5S
